US05541229
Tert.butyl 4'-[(2-n-butyl-6-(N-acetyl-methylamino)-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylate
tert.butyl 4'-[(2-n-butyl-6-(N-propionyl-methylamino)-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylate oil, Rf value: 0.65 (Silica gel: methylene chloride/ethanol=19:1)

reactant | tert.butyl 4'-[(2-n-butyl-6-(N-propionyl-methylamino)-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylate | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C)C=C(C=C2)N(C(CC)=O)C | C33H39N3O3
solvent | methylene chloride ethanol | C(Cl)Cl.C(C)O
product | Tert.butyl 4'-[(2-n-butyl-6-(N-acetyl-methylamino)-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylate | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C)C=C(C=C2)N(C(C)=O)C | C32H37N3O3
